US08735579B2
N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-(2-chloro-pyridin-4-yloxy)-4-methyl-benzamide
545 mg sodium hydride (60% in mineral oil) are added to 2.77 g N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-hydroxy-4-methyl-benzamide in 15 ml N,N-dimethylformamide under an argon atmosphere and while cooling with an ice bath, and the reaction mixture is stirred at ambient temperature until no further hydrogen development can be detected. Then 1.63 g 2-chloro-4-iodopyridine are added, and the reaction mixture is stirred overnight at 110° C. After cooling to ambient temperature the solvent is distilled off using the rotary evaporator. The flask residue is taken up in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, dried on magnesium sulphate and evaporated down. The flask residue is chromatographed through a silica gel column with petroleum ether/ethyl acetate (80:20→30:70) as eluant. The product is stirred with diethyl ether, suction filtered and dried.

reactant | sodium hydride | 545 mg | [H-].[Na+]
reactant | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-hydroxy-4-methyl-benzamide | 2.77 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)O)=O)OC)NS(=O)(=O)C | C20H26N2O5S
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-4-iodopyridine | 1.63 g | ClC1=NC=CC(=C1)I | C5H3ClIN
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-(2-chloro-pyridin-4-yloxy)-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)OC1=CC(=NC=C1)Cl)=O)OC)NS(=O)(=O)C | C25H28ClN3O5S
